US04234728
54.3 g of 2,4,6-tris-(2,2,6,6-tetramethyl-4-piperidylamino)-1,3,5-triazine are dissolved in 200 ml of glacial acetic acid. After addition of 20 ml of 36% formaldehyde solution, the reaction mixture is stirred for 18 hours at room temperature, then diluted with water, made strongly alkaline with concentrated sodium hydroxide solution and extracted with toluene. The toluene solution is dried over sodium sulphate and concentrated in vacuo. Crystallisation of the residue yields 2,4-bis-(2,2,6,6-tetramethyl-4-piperidylamino)-6-(2,2,6,6-tetramethyl-4-piperidyl-methylolamino)-1,3,5-triazine in the form of colourless crystals with a melting point of 201°-202° C.

reactant | 2,4,6-tris-(2,2,6,6-tetramethyl-4-piperidylamino)-1,3,5-triazine | 54.3 g | CC1(NC(CC(C1)NC1=NC(=NC(=N1)NC1CC(NC(C1)(C)C)(C)C)NC1CC(NC(C1)(C)C)(C)C)(C)C)C | C30H57N9
reactant | formaldehyde | 20 ml | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2,4-bis-(2,2,6,6-tetramethyl-4-piperidylamino)-6-(2,2,6,6-tetramethyl-4-piperidyl-methylolamino)-1,3,5-triazine | CC1(NC(CC(C1)NC1=NC(=NC(=N1)NC1CC(NC(C1)(C)C)(C)C)N(CO)C1CC(NC(C1)(C)C)(C)C)(C)C)C | C31H59N9O
